US08049006B2
tert-butyl 4-[(1R)-1-aminopropyl]-2-nitrobenzoate Hydrochloride (Compound S101)
A mixed solution of the compound S97 (703 mg), (R)-2,2′-bis(di-4-methylphenylphosphino)-1,1′-binaphthyl ruthenium (II) chloride complex (51 mg), ammonium formate (3.15 g), and 2M ammonia/methanol solution (20 ml) was stirred under a nitrogen atmosphere at 85° C. for 18 hours. Next, ethyl formate (4 ml) was added to the reaction solution and the mixture was stirred at 85° C. for 18 hours. The reaction solution was concentrated, saturated potassium hydrogensulfate aqueous solution and saturated saline were added, and the mixture was extracted with ethyl acetate. The organic layer was dried over with anhydrous sodium sulfate, then concentrated. Ethanol (10 ml), distilled water (2.5 ml), and concentrated hydrochloric acid (2.5 ml) were added to the residue, the mixture was stirred at 85° C. for 40 minutes, then the reaction solution was concentrated to obtain 4-[(1R)-1-aminopropyl]-2-nitrobenzoic acid hydrochloride (745 mg). To 500 mg of the obtained 4-[(1R)-1-aminopropyl]-2-nitrobenzoic acid hydrochloride, methylene chloride (20 ml) and anhydrous magnesium sulfate (3.5 g) were added and the mixture was stirred at room temperature for 15 minutes. Next, concentrated sulfuric acid (186 μl) was added to the reaction solution, the mixture was stirred at room temperature for 5 minutes, then isobutene (3.5 ml) was added and the mixture was stirred at room temperature for 24 hours. Saturated sodium hydrogencarbonate aqueous solution was added to the reaction solution and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated saline, dried over with anhydrous sodium sulfate, then concentrated. The residue was diluted with ethyl acetate, then 4N hydrogen chloride/ethyl acetate solution (0.5 ml) was added dropwise in the obtained solution. The precipitate was collected by filtration to obtain the title compound (358 mg).

reactant | 4-[(1R)-1-aminopropyl]-2-nitrobenzoic acid hydrochloride | 500 mg | Cl.N[C@H](CC)C1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-]
reactant | magnesium sulfate | 3.5 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | sulfuric acid | 186 μl | S(O)(O)(=O)=O | H2O4S
reactant | isobutene | 3.5 ml | C=C(C)C | C4H8
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-[(1R)-1-aminopropyl]-2-nitrobenzoate Hydrochloride | 358 mg | Cl.N[C@H](CC)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)[N+](=O)[O-] | InChI=1S/C14H20N2O4.ClH/c1-5-11(15)9-6-7-10(12(8-9)16(18)19)13(17)20-14(2,3)4;/h6-8,11H,5,15H2,1-4H3;1H/t11-;/m1./s1
